2117-10-04 07:21:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9291**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2117-10-3**] 05:59 PM
 INVASIVE VENTILATION - START [**2117-10-3**] 07:08 PM
   Allergies: NKDA
   Last dose of Antibiotics:
   Cefipime - [**2117-10-4**] 12:14 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2117-10-3**] 06:50 PM
   Propofol - [**2117-10-3**] 07:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 80 (75 - 92) bpm
   BP: 124/61(75) {115/53(68) - 184/102(128)} mmHg
   RR: 18 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,624 mL
                                                                    507 mL
   PO:
             TF:
   IVF:
                                                                    399 mL
                                                                    507 mL
   Blood products:
                                                                  1,225 mL
   Total out:
                                                                    790 mL
                                                                    450 mL
   Urine:
                                                                    790 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    834 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Elevated ICP
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.50/39/188/30/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 470
   Physical Examination
   Gen: obese gentleman, intubated and sedated making purposeless
   spontaneous movements of LLE, not responsive to voice commands but
   responsive to sternal rub. Diaphoretic, opening icteric eyes to voice
   (to his name)
   HEENT: pupils equal round and reactive to light, sclerae markedly
   icteric b/l
   Neck: supple, no masses, R-sided IJ central line in place
   Resp: coarse, mechanical breath sounds
   CV: regular rate and rhythm, no murmurs appreciated
   Abd: + BS, soft, obese, non-distended, unable to assess pain
   Ext: no edema or calf tenderness, 2+ distal pulses B/L
   Skin: petechiae over lower extremities
   Neuro: non-verbal
   Labs / Radiology
   34 K/uL
   7.4 g/dL
   95 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.4 mEq/L
   26 mg/dL
   96 mEq/L
   133 mEq/L
   21.3 %
   0.4 K/uL
        [image002.jpg]
                            [**2117-10-3**]  08:12 PM
                            [**2117-10-3**]  08:48 PM
                            [**2117-10-3**]  08:59 PM
                            [**2117-10-4**]  04:04 AM
   WBC
   0.3
   0.4
   Hct
   23.9
   21.3
   Plt
   42
   34
   Cr
   0.4
   0.5
   TCO2
   32
   31
   Glucose
   95
   95
   Other labs: PT / PTT / INR:10.9/26.7/0.9, ALT / AST:164/64, Alk Phos /
   T Bili:520/9.7, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:19.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:176 mg/dL, Lactic Acid:2.3 mmol/L,
   LDH:174 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   42 year-old gentleman w/ newly dx ALL s/p chemo (vincristine,
   doxorubicin) and L-asparaginase x-fer to [**Hospital Unit Name 10**] w/ ischemic stroke
   complicated by massive hemorrhagic transformation s/p intubation for
   inability to protect airway.
   1. ACUTE STROKE- etiology of stroke is unclear, risk factors include
   hypercoagulable state due to underlying malignancy, obesity, cocaine
   use and recent use of L-asparaginase, which has been shown to decrease
   fibrinogen and antithrombin III levels (Kieslich et [**Doctor Last Name **]. [**2110**] J. Pedi
   Hem/Onc 25 (6): 484-487). Head CT showed massive hemorrhagic
   transformation with some midline shift (liekly still evolving).
   -- appreciate Neurology and Neurosurgery consults
   -- monitor neuro status q1 checks-> appears to be opening eyes to name
   -- Keep SBP < 160 as per neuro recs
   -- Intubated now for inability to protect airway-> FiO2 weaned to 40%
   -- repeat ABG-> respiratory alkalosis- retaining CO2-> find out from
   neuro/neurosurg re: hyperventilation
   -- f/u bedside EEG
   -- repeat head CT in AM to assess interval change
 appears largely
   unchanged from prior
   -- tight glycemic control
   -- Keppra 1000mg IV q12h for seizure ppx
   -- d/w family re: goals of care-> possible he may recover from this as
   bleed appears to have stabilized/ no impending herniation at this point
   per neurosurg
 however, unclear as far as neurologic deficits ie global
   aphasia and hemiparesis, hard to assess whether these would be
   permanent deficits or if patient could recover some function
   2. ACUTE LEUKEMIA- Has anemia, thrombocyotopenia without bleeding.
   -- xfused 2u FFP, 3u plts, 1u cryoppt, f/u 1pm CBC
   -- pt actively sequesters platelets as per BMT and has massive
   splenomegaly
   -- xfuse factor VIIa as per neurosurg recs
   -- Goal SBP 100-140, goal INR<1.3, goal platlets >80,000 as per
   neurosurg; however, highest pt's plts have been were 49 as per BMT
   --  f/u BMT recs
   ICU Care
   Nutrition:  NPO for now (intubated)
   Glycemic Control:  assess FS, insulin SS as needed
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: family, brother [**Name (NI) 117**]
   Code status: FULL for now
   Disposition:  ICU

2117-10-04 09:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2117-10-3**] 05:59 PM
 INVASIVE VENTILATION - START [**2117-10-3**] 07:08 PM
   Transfused 2 u FFP, 3 bags plts, 1 cryo, 1 factor VII A per
   neurosurgery recommendations
                   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-10-4**] 08:33 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2117-10-3**] 06:50 PM
   Propofol - [**2117-10-3**] 07:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Gastrointestinal: Emesis
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-10-4**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 83 (75 - 92) bpm
   BP: 125/72(83) {115/53(68) - 184/102(128)} mmHg
   RR: 15 (7 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,624 mL
                                                                    781 mL
   PO:
             TF:
   IVF:
                                                                    399 mL
                                                                    781 mL
   Blood products:
                                                                  1,225 mL
   Total out:
                                                                    790 mL
                                                                    570 mL
   Urine:
                                                                    790 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    834 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Elevated ICP
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.50/39/188/30/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 470
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, moving left side, upgoing toe on right
   Labs / Radiology
   7.4 g/dL
   34 K/uL
   95 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.4 mEq/L
   26 mg/dL
   96 mEq/L
   133 mEq/L
   21.3 %
   0.4 K/uL
        [image002.jpg]
                            [**2117-10-3**]  08:12 PM
                            [**2117-10-3**]  08:48 PM
                            [**2117-10-3**]  08:59 PM
                            [**2117-10-4**]  04:04 AM
   WBC
   0.3
   0.4
   Hct
   23.9
   21.3
   Plt
   42
   34
   Cr
   0.4
   0.5
   TCO2
   32
   31
   Glucose
   95
   95
   Other labs: PT / PTT / INR:10.9/26.7/0.9, ALT / AST:164/64, Alk Phos /
   T Bili:520/9.7, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:19.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:176 mg/dL, Lactic Acid:2.3 mmol/L,
   LDH:174 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM):  BMT
   following along.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Intubated for airway protection in setting
   of acute worsening of CVA.  Repeat ABG.
 COAGULOPATHY:  Persistent thrombocytopenia.  No plans for further
   transfusions at this time.
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC:  Ischemic parietal
   stroke with hemorhhagic transformation in setting of refractory
   thrombocytopenia. Started keppra for seizure prophylaxis.  Nuerosurgery
   discussed EVD with family who indicated that since he would have
   residual aphasia and R hemiplegia he would not want to proceed with
   this procedure so this was not pursued.  Need to touch base with BMT
   and have family meeting to establish goals of care.  Follow up on
   repeat head CT scan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-10-05 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2117-10-4**] 10:00 AM
 BLOOD CULTURED - At [**2117-10-4**] 09:00 PM
 FEVER - 102.2
F - [**2117-10-5**] 04:00 AM
   -Neuro said findings c/w superior sagginal sinus thrombosis.  Suggested
   4 vessel angigraphy and possible angio-jet procedure to evacuate the
   thrombus.  After discussing the long term prognosis with the family,
   decision was made for the pt. not to undergo the procedure.  No further
   escalation of care, DNR.  However, upon further discussion with
   Neurosurg, BMT, a decision was made to start less invasive options --
   hyperventilation and Mannitol, and see how the patient responds.  He
   has been getting that tonight.
   -febrile, Blood cultures x 2 done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-10-5**] 12:13 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-5**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.5
C (101.3
   HR: 86 (67 - 88) bpm
   BP: 116/69(79) {107/55(69) - 130/77(87)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,639 mL
                                                                  1,412 mL
   PO:
             TF:
   IVF:
                                                                  1,479 mL
                                                                  1,292 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    945 mL
   Urine:
                                                                  2,370 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -731 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 650) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 17 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 98%
   ABG: 7.60/27/122/26/6
   Ve: 14 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Gen: obese gentleman, intubated and sedated making purposeless
   spontaneous movements of LLE, not responsive to voice commands but
   responsive to sternal rub. Diaphoretic, opening icteric eyes to voice
   (to his name)
   HEENT: pupils equal round and reactive to light, sclerae markedly
   icteric b/l
   Neck: supple, no masses, R-sided IJ central line in place
   Resp: coarse, mechanical breath sounds
   CV: regular rate and rhythm, no murmurs appreciated
   Abd: + BS, soft, obese, non-distended, unable to assess pain
   Ext: no edema or calf tenderness, 2+ distal pulses B/L
   Skin: petechiae over lower extremities
   Neuro: non-verbal
   Labs / Radiology
   40 K/uL
   7.9 g/dL
   93 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   30 mg/dL
   101 mEq/L
   133 mEq/L
   22.8 %
   0.6 K/uL
        [image002.jpg]
                            [**2117-10-4**]  04:04 AM
                            [**2117-10-4**]  09:47 AM
                            [**2117-10-4**]  01:10 PM
                            [**2117-10-4**]  04:21 PM
                            [**2117-10-4**]  06:27 PM
                            [**2117-10-4**]  07:59 PM
                            [**2117-10-4**]  08:17 PM
                            [**2117-10-5**]  01:53 AM
                            [**2117-10-5**]  02:58 AM
                            [**2117-10-5**]  04:21 AM
   WBC
   0.4
   0.6
   0.6
   Hct
   21.3
   23.3
   22.8
   Plt
   34
   45
   40
   Cr
   0.5
   0.4
   0.5
   0.5
   0.6
   TCO2
   32
   31
   30
   27
   Glucose
   95
   89
   94
   91
   93
   Other labs: PT / PTT / INR:15.2/32.3/1.3, ALT / AST:152/62, Alk Phos /
   T Bili:595/10.2, Differential-Neuts:62.0 %, Band:0.0 %, Lymph:36.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:197 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:189 IU/L, Ca++:8.1 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   42 year-old gentleman w/ newly dx ALL s/p chemo (vincristine,
   doxorubicin) and L-asparaginase x-fer to [**Hospital Unit Name 10**] w/ ischemic stroke
   complicated by massive hemorrhagic transformation s/p intubation for
   inability to protect airway.
   1. ACUTE STROKE- etiology of stroke is unclear, risk factors include
   hypercoagulable state due to underlying malignancy, obesity, cocaine
   use and recent use of L-asparaginase, which has been shown to decrease
   fibrinogen and antithrombin III levels (Kieslich et [**Doctor Last Name **]. [**2110**] J. Pedi
   Hem/Onc 25 (6): 484-487). Head CT showed massive hemorrhagic
   transformation with some midline shift (liekly still evolving).
   -- appreciate Neurology and Neurosurgery consults
   -- monitor neuro status q1 checks-> appears to be opening eyes to name
   -- Keep SBP < 160 as per neuro recs
   -- Intubated now for inability to protect airway-> FiO2 weaned to 40%
   -- repeat ABG-> respiratory alkalosis- retaining CO2-> find out from
   neuro/neurosurg re: hyperventilation
   -- f/u bedside EEG
   -- repeat head CT in AM to assess interval change
 appears largely
   unchanged from prior
   -- tight glycemic control
   -- Keppra 1000mg IV q12h for seizure ppx
   -- d/w family re: goals of care-> possible he may recover from this as
   bleed appears to have stabilized/ no impending herniation at this point
   per neurosurg
 however, unclear as far as neurologic deficits ie global
   aphasia and hemiparesis, hard to assess whether these would be
   permanent deficits or if patient could recover some function
   2. ACUTE LEUKEMIA- Has anemia, thrombocyotopenia without bleeding.
   -- xfused 2u FFP, 3u plts, 1u cryoppt, f/u 1pm CBC
   -- pt actively sequesters platelets as per BMT and has massive
   splenomegaly
   -- xfuse factor VIIa as per neurosurg recs
   -- Goal SBP 100-140, goal INR<1.3, goal platlets >80,000 as per
   neurosurg; however, highest pt's plts have been were 49 as per BMT
   --  f/u BMT recs
   ICU Care
   Nutrition:  NPO for now (intubated)
   Glycemic Control:  assess FS, insulin SS as needed
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: family, brother [**Name (NI) 117**]
   Code status: FULL for now
   Disposition:  ICU

2117-10-05 10:32:00 Physician Attending Progress Note
Chief Complaint: ischemic parietal CVA with hemorrhagic transfromation,
   intubated for airway protection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2117-10-4**] 10:00 AM
 BLOOD CULTURED - At [**2117-10-4**] 09:00 PM
 FEVER - 102.2
F - [**2117-10-5**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-10-5**] 07:54 AM
   Vancomycin - [**2117-10-5**] 08:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-10-5**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.3
C (100.9
   HR: 81 (67 - 88) bpm
   BP: 122/59(72) {103/55(69) - 128/77(87)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,639 mL
                                                                  2,280 mL
   PO:
             TF:
   IVF:
                                                                  1,479 mL
                                                                  2,060 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,475 mL
   Urine:
                                                                  2,370 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -731 mL
                                                                    806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 650) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 99%
   ABG: 7.54/30/174/26/4
   Ve: 13.6 L/min
   PaO2 / FiO2: 435
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, jaundice
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), central line site
   without erythema
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, R toe upgoing
   Labs / Radiology
   7.9 g/dL
   40 K/uL
   93 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   30 mg/dL
   101 mEq/L
   133 mEq/L
   22.8 %
   0.6 K/uL
        [image002.jpg]
                            [**2117-10-4**]  09:47 AM
                            [**2117-10-4**]  01:10 PM
                            [**2117-10-4**]  04:21 PM
                            [**2117-10-4**]  06:27 PM
                            [**2117-10-4**]  07:59 PM
                            [**2117-10-4**]  08:17 PM
                            [**2117-10-5**]  01:53 AM
                            [**2117-10-5**]  02:58 AM
                            [**2117-10-5**]  04:21 AM
                            [**2117-10-5**]  09:28 AM
   WBC
   0.6
   0.6
   Hct
   23.3
   22.8
   Plt
   45
   40
   Cr
   0.4
   0.5
   0.5
   0.6
   TCO2
   32
   31
   30
   27
   26
   Glucose
   89
   94
   91
   93
   Other labs: PT / PTT / INR:15.2/32.3/1.3, ALT / AST:152/62, Alk Phos /
   T Bili:595/10.2, Differential-Neuts:62.0 %, Band:0.0 %, Lymph:36.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:195 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:189 IU/L, Ca++:8.1 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR:  ETT in
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM):  BMT team
   following for recommendations for further management.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Continues to require the ETT for airway
   protection.  Using the ventilator to hyperventilate in setting of
   CVA/edema albeit when readdressed with neurosurgery, he is not a
   candidate for EVD or surgical intervention.
 COAGULOPATHY: Will readdress utility of plt transfusion with BMT team
   as they indicated they would like plts above 50 albeit this continues
   to be difficult to maintain given his underlying consumption of plts.
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC WITH HEMORRHAGIC
   TRANSFORMATION:  Continue thrombocytopenia.   Offf propofol for 20
   minutes prior to exam this morning. Intermittently opens eyes to voice
   but not consistently.  Not following commands.  Neuro exam unchanged to
   my exam.
 FEVER:  No clear source for new infection. Antibiotics broadened by
   adding vanco for better gram positive coverage.
 TRANSAMINITIS:  Likely secondary to vincristine.  Bilirubin slightly
   increased.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-10-06 07:14:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9291**] PROGRESS NOTE
   Chief Complaint: superior sagittal thrombosis
   24 Hour Events:
   -discontinued propofol drip due to triglycerides elevated to 742, then
   started midazolam after consultation with neuro
   -started tube feeds
   -kept mannitol dose the same; patient's osm expected to increased
   -gave 1 units PRBC and 1 bag platelets
   -added PRN tylenol per neuro recs to keep temp <100.4
   -CT head in a.m.
   -head of bed >30 degrees
   -determined from records that central venous line went in on [**9-9**]
   Allergies: NKDA
   Last dose of Antibiotics:
   Cefipime - [**2117-10-6**] 12:40 AM
   Vancomycin - [**2117-10-6**] 04:49 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2117-10-5**] 10:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-6**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.5
   HR: 90 (72 - 90) bpm
   BP: 127/69(83) {106/59(72) - 134/93(123)} mmHg
   RR: 23 (19 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,634 mL
                                                                  1,032 mL
   PO:
             TF:
                                                                    220 mL
                                                                    288 mL
   IVF:
                                                                  3,468 mL
                                                                    744 mL
   Blood products:
                                                                    626 mL
   Total out:
                                                                  3,745 mL
                                                                    925 mL
   Urine:
                                                                  3,745 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    889 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 17 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.54/30/174/26/4
   Ve: 14.1 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: intubated, sedated making purposeless spontaneous movements of
   LUE, LLE; not opening eyes to voice
   HEENT: pupils equal round and reactive to light 6mm to 5mm, sclerae
   markedly icteric b/l
   Chest: R-sided subclavian central line in place
   Resp: coarse, mechanical breath sounds
   CV: regular rate and rhythm, no murmurs appreciated
   Abd: + BS, soft, obese, non-distended, unable to assess pain
   Ext: no edema, 2+ distal pulses B/L
   Skin: petechiae over lower extremities
   Neuro: non-verbal
   Labs / Radiology
   40 K/uL
   8.2 g/dL
   113 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   106 mEq/L
   142 mEq/L
   24.4 %
   0.8 K/uL
        [image002.jpg]
                            [**2117-10-4**]  08:17 PM
                            [**2117-10-5**]  01:53 AM
                            [**2117-10-5**]  02:58 AM
                            [**2117-10-5**]  04:21 AM
                            [**2117-10-5**]  09:28 AM
                            [**2117-10-5**]  10:37 AM
                            [**2117-10-5**]  04:30 PM
                            [**2117-10-5**]  05:34 PM
                            [**2117-10-6**]  12:56 AM
                            [**2117-10-6**]  04:23 AM
   WBC
   0.6
   1.0
   0.8
   Hct
   22.8
   23.6
   24.4
   Plt
   40
   46
   42
   40
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   30
   27
   26
   Glucose
   91
   93
   108
   93
   105
   113
   Other labs: PT / PTT / INR:14.9/32.5/1.3, ALT / AST:147/56, Alk Phos /
   T Bili:524/11.5, Amylase / Lipase:/43, Differential-Neuts:80.0 %,
   Band:2.0 %, Lymph:16.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:195 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:165 IU/L, Ca++:8.2 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   42 year-old gentleman w/ newly dx ALL s/p chemo (vincristine,
   doxorubicin) and L-asparaginase x-fer to [**Hospital Unit Name 10**] w/ ischemic stroke
   complicated by massive hemorrhagic transformation s/p intubation for
   inability to protect airway.
   1. ACUTE STROKE- Patient has sagital sinus and cortical vein thrombosis
   complicated by hemorrhagic infarction.  Hypercoagulability likely [**12-21**]
   underlying malignancy, along with use of L-asparaginase.  Head CT shows
   falcine herniation with midline shift.
   -- f/u today
s head CT and ABG
   -- appreciate Neurology recs- will attempt to wean off mannitol-> 350mg
   q6h now
   -- monitor lytes, osms q6h & q1h neuro checks
   -- Keep SBP < 160 as per neuro recs
   -- Intubated now for inability to protect airway-> will keep current
   ventilator settings
   -- off propofol, on midazolam now
   -- f/u bedside EEG
 abnl d/t ant & post slowing w/ varying laterality
   in parasaggital regions w/ R
   Parasag and fronto-polar to central showing most marked delta slowing;
   assoc phase reversals
   Suggestive of PLEDS. No definitive d/c irritation may be a result in
   assoc w/ slowing of vascular event
   Involving right parasag area.. so abnl EEG d/t stroke; no seizure-like
   activity
   -- tight glycemic control
   -- continue Keppra 1000mg IV q12h for seizure ppx
   -- d/w family re: goals of care-> currently pursuing medical therapy
   with mannitol and hyperventilation but no surgery
   2. ACUTE LEUKEMIA- Has anemia, thrombocyotopenia with intracranial
   hermorrhage.
   -- transfuse 1 unit PRBC and 1 bag platelets
   -- pt actively sequesters platelets as per BMT and has massive
   splenomegaly
   -- Goal SBP 100-140, goal INR<1.3, goal platlets >80,000 as per
   neurosurg; however, highest pt's plts have been were 49 as  per BMT
   --  f/u BMT recs
   3. FEVER: DDx includes known intracranial thrombosis vs. infection
   -- pan culture
   -- treat empirically with cefepime/vanc
   4. HYPERBILIRUBINEMIA: Likely [**12-21**] known liver injury from vincristine/
   shock liver? + hemolysis
   -- trend total and direct bilirubin
   -- trend CBC
   -- avoid hepatotoxins
   -- contact liver service if any add
l recs or official sign-off
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2117-10-6**] 06:47 AM 40 mL/hour
 will need
   to change based on nutrition recs as is now off propofol
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments: family, brother [**Name (NI) 117**]
   Code status: FULL for now
   Disposition:  ICU

2117-10-06 11:08:00 Physician Attending Progress Note
Chief Complaint: hemorrhagic parietal CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient unable to provide history: Sedated, obtunded
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-10-6**] 04:49 AM
   Cefipime - [**2117-10-6**] 08:26 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2117-10-5**] 10:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-6**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 86 (72 - 92) bpm
   BP: 122/69(82) {106/62(74) - 134/93(123)} mmHg
   RR: 25 (19 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,634 mL
                                                                  1,963 mL
   PO:
             TF:
                                                                    220 mL
                                                                    433 mL
   IVF:
                                                                  3,468 mL
                                                                  1,341 mL
   Blood products:
                                                                    626 mL
   Total out:
                                                                  3,745 mL
                                                                  1,970 mL
   Urine:
                                                                  3,745 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    889 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 16 cmH2O
   Compliance: 60.6 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 13.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependent crackles)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, toe upgoing on right, moves left leg
   nonpurposefully
   Labs / Radiology
   8.2 g/dL
   40 K/uL
   113 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   106 mEq/L
   142 mEq/L
   24.4 %
   0.8 K/uL
        [image002.jpg]
                            [**2117-10-4**]  08:17 PM
                            [**2117-10-5**]  01:53 AM
                            [**2117-10-5**]  02:58 AM
                            [**2117-10-5**]  04:21 AM
                            [**2117-10-5**]  09:28 AM
                            [**2117-10-5**]  10:37 AM
                            [**2117-10-5**]  04:30 PM
                            [**2117-10-5**]  05:34 PM
                            [**2117-10-6**]  12:56 AM
                            [**2117-10-6**]  04:23 AM
   WBC
   0.6
   1.0
   0.8
   Hct
   22.8
   23.6
   24.4
   Plt
   40
   46
   42
   40
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   30
   27
   26
   Glucose
   91
   93
   108
   93
   105
   113
   Other labs: PT / PTT / INR:14.9/32.5/1.3, ALT / AST:147/56, Alk Phos /
   T Bili:524/11.5, Amylase / Lipase:/43, Differential-Neuts:80.0 %,
   Band:2.0 %, Lymph:16.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:195 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:165 IU/L, Ca++:8.2 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM):
   Pancytopenia, neutropenia. Continues febrile, getting prn tylenol
   albeit dosing gingerly given underlying liver dysfunction.  Trying to
   keep termps lower than 102 given acute CVA.  Repeat cultures sent for
   temp spike.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Continues intubated.  Now on versed given
   elevated lipids on poropfol. Will hold versed now to be able to assess
   neuro status.  Repeat head CT done this am, awaiting final read.
 COAGULOPATHY:  Transfused platelets without bump as before.  Will
   hold on further transfusions unless he is below 40.
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC:  Appreciate neurology
   consult input.  Will review head CT with neuro and radiology and make
   further recommendations for tapering mannitol.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2117-10-6**] 06:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2117-10-07 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   BLOOD CULTURED - At [**2117-10-6**] 08:26 AM
   via CVL
   SPUTUM CULTURE - At [**2117-10-6**] 09:14 AM
   URINE CULTURE - At [**2117-10-6**] 09:14 AM
   FEVER - 101.8
F - [**2117-10-6**] 08:00 AM
   head CT stable
   Started micafungin
   Started neupogen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2117-10-6**] 08:13 PM
   Cefipime - [**2117-10-7**] 12:44 AM
   Vancomycin - [**2117-10-7**] 04:06 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-7**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38
C (100.4
   HR: 98 (86 - 100) bpm
   BP: 114/65(76) {112/65(76) - 160/91(105)} mmHg
   RR: 25 (19 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.2 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  4,062 mL
                                                                    872 mL
   PO:
                                                                     30 mL
             TF:
                                                                    961 mL
                                                                    308 mL
   IVF:
                                                                  2,611 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                  1,710 mL
   Urine:
                                                                  3,170 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    742 mL
                                                                   -838 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 43.2 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/37/228/24/1
   Ve: 10.4 L/min
   PaO2 / FiO2: 570
   Physical Examination
   Gen: intubated, sedated, following commands, squeezing fingers on the
   left and opening eyes
   HEENT: pupils equal round and reactive to light 6mm to 5mm, sclerae
   markedly icteric b/l
   Chest: R-sided subclavian central line in place
   Resp: coarse, mechanical breath sounds
   CV: regular rate and rhythm, no murmurs appreciated
   Abd: + BS, soft, obese, non-distended, unable to assess pain
   Ext: no edema, 2+ distal pulses B/L
   Skin: petechiae over lower extremities
   Neuro: non-verbal
   Labs / Radiology
   33 K/uL
   8.3 g/dL
   108 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   36 mg/dL
   107 mEq/L
   141 mEq/L
   24.9 %
   1.4 K/uL
        [image002.jpg]
                            [**2117-10-5**]  10:37 AM
                            [**2117-10-5**]  04:30 PM
                            [**2117-10-5**]  05:34 PM
                            [**2117-10-6**]  12:56 AM
                            [**2117-10-6**]  04:23 AM
                            [**2117-10-6**]  03:56 PM
                            [**2117-10-6**]  09:18 PM
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
   WBC
   1.0
   0.8
   1.1
   1.0
   1.4
   Hct
   23.6
   24.4
   25.4
   23.1
   24.9
   Plt
   46
   42
   40
   43
   36
   33
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   26
   Glucose
   108
   93
   105
   113
   121
   108
   Other labs: PT / PTT / INR:15.6/40.8/1.4, ALT / AST:155/69, Alk Phos /
   T Bili:502/12.5, Amylase / Lipase:/43, Differential-Neuts:80.0 %,
   Band:2.0 %, Lymph:16.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:195 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:171 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   42 year-old gentleman w/ newly dx ALL s/p chemo (vincristine,
   doxorubicin) and L-asparaginase x-fer to [**Hospital Unit Name 10**] w/ ischemic stroke
   complicated by massive hemorrhagic transformation s/p intubation for
   inability to protect airway.
   1. ACUTE STROKE- Patient has sagital sinus and cortical vein thrombosis
   complicated by hemorrhagic infarction.  Hypercoagulability likely [**12-21**]
   underlying malignancy, along with use of L-asparaginase.  Head CT shows
   falcine herniation with midline shift.
   -- appreciate Neurology recs- will attempt to wean off mannitol-> 350mg
   q6h now
   -- Hyperventilation decreased yesterday
   -- monitor lytes, osms q6h & q1h neuro checks
   -- Keep SBP < 160 as per neuro recs
   -- Intubated now for inability to protect airway-> will keep current
   ventilator settings
   -- Continue to wean midazolam sedation as tolerated
   -- tight glycemic control
   -- continue Keppra 1000mg IV q12h for seizure ppx
   -- Continue good contact and follow-up with family
   2. ACUTE LEUKEMIA- Has anemia, thrombocyotopenia with intracranial
   hermorrhage.
   -- Discuss platelet goal with BMT
ll shoot for above 30 at this
   point
 pt actively sequesters platelets as per BMT and has massive
   splenomegaly
   -- Goal SBP 100-140, goal INR<1.3, goal platlets >40,000
   -- Give 5mg vitamin K
   --  f/u BMT recs
   -- Neupogen added per BMT
   3. FEVER: DDx includes known intracranial thrombosis vs. infection
   -- pan cultured yesterday
   -- treat empirically with cefepime/vanc
 Micofungin added yesterday
   -- f/u cultures
   4. HYPERBILIRUBINEMIA: Likely [**12-21**] known liver injury from vincristine/
   shock liver? + hemolysis
   -- trend total and direct bilirubin
   -- trend CBC
   -- avoid hepatotoxins
   -- contact liver service if any add
l recs or official sign-off
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2117-10-6**] 06:47 AM 40 mL/hour
 will need
   to change based on nutrition recs as is now off propofol
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments: family, brother [**Name (NI) 117**]
   Code status: FULL for now
   Disposition:  ICU
   14:07
   ------ Protected Section ------
   Agree with this excellent MSIV note.  Will continue to gradually
   decrease Mannitol.  Will continue frequent assessment of neurological
   status.  Will give Vitamin K for elevated INR.  Continuing
   antimicrobial regimen of Vanc, Cefepime and Micofungin.
   ------ Protected Section Addendum Entered By:[**Name (NI) 285**] [**Last Name (NamePattern1) 9042**], MD
   on:[**2117-10-7**] 23:00 ------

2117-10-07 10:39:00 Physician Attending Progress Note
Chief Complaint: left prietal CVA with hemorrhagic transformation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2117-10-6**] 08:26 AM
   via CVL
 SPUTUM CULTURE - At [**2117-10-6**] 09:14 AM
 URINE CULTURE - At [**2117-10-6**] 09:14 AM
 BLOOD CULTURED - At [**2117-10-6**] 04:08 PM
   via CVL
 FEVER - 101.8
F - [**2117-10-6**] 08:00 AM
   Versed restarted overnight given elevated BP
   Micafungin
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2117-10-6**] 08:13 PM
   Vancomycin - [**2117-10-7**] 04:06 AM
   Cefipime - [**2117-10-7**] 08:15 AM
   Bactrim (SMX/TMP) - [**2117-10-7**] 08:16 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-7**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-10-7**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 85 (85 - 100) bpm
   BP: 124/77(87) {109/65(76) - 160/91(105)} mmHg
   RR: 20 (19 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.2 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  4,062 mL
                                                                  1,440 mL
   PO:
                                                                     30 mL
             TF:
                                                                    961 mL
                                                                    412 mL
   IVF:
                                                                  2,611 mL
                                                                    928 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                  2,070 mL
   Urine:
                                                                  3,170 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    742 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.44/37/228/24/1
   Ve: 12.5 L/min
   PaO2 / FiO2: 570
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, jaundice
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, RUE swelling
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, opened eyes to voice,
   Labs / Radiology
   8.3 g/dL
   33 K/uL
   108 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   36 mg/dL
   107 mEq/L
   141 mEq/L
   24.9 %
   1.4 K/uL
        [image002.jpg]
                            [**2117-10-5**]  10:37 AM
                            [**2117-10-5**]  04:30 PM
                            [**2117-10-5**]  05:34 PM
                            [**2117-10-6**]  12:56 AM
                            [**2117-10-6**]  04:23 AM
                            [**2117-10-6**]  03:56 PM
                            [**2117-10-6**]  09:18 PM
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
   WBC
   1.0
   0.8
   1.1
   1.0
   1.4
   Hct
   23.6
   24.4
   25.4
   23.1
   24.9
   Plt
   46
   42
   40
   43
   36
   33
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   26
   Glucose
   108
   93
   105
   113
   121
   108
   Other labs: PT / PTT / INR:15.6/40.8/1.4, ALT / AST:155/69, Alk Phos /
   T Bili:502/12.5, Amylase / Lipase:/43, Differential-Neuts:80.0 %,
   Band:2.0 %, Lymph:16.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:195 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:171 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA):  On
   vanco/cefipime.  Added mciafungin.  Cultures pending.  No secretions
   via ETT.  Increase vanco dosing.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM):  Now on
   neupogen.  On bactim prophylaxis.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Continues to require intubation for airway
   protection.
 COAGULOPATHY/THROMBOCYTOPENIA:  Trying to maintain plts >30K, follow
   labs and transfuse platelets.  INR slightly increased, consider vit K,
   will discuss with BMT service.
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC:   More awake today.
   Moving left side.  Weaning mannitol.  Continue keppra.
 TRANSAMINITIS:  Bilirubin continues to climb.  Presumed to be
   secondary to chemoRx.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2117-10-7**] 05:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2117-10-08 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pan Cultured
 C. Diff positive
 started on IV Flagyl  500mg q8
   ULTRASOUND - At [**2117-10-7**] 11:17 AM
   D/C
d Bactrim per BMT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2117-10-6**] 08:13 PM
   Bactrim (SMX/TMP) - [**2117-10-7**] 08:16 AM
   Cefipime - [**2117-10-8**] 12:00 AM
   Vancomycin - [**2117-10-8**] 04:32 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-7**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-8**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98
   HR: 84 (77 - 95) bpm
   BP: 120/66(78) {104/59(70) - 146/84(97)} mmHg
   RR: 19 (18 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.2 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  4,175 mL
                                                                  1,273 mL
   PO:
             TF:
                                                                  1,118 mL
                                                                    510 mL
   IVF:
                                                                  2,716 mL
                                                                    703 mL
   Blood products:
   Total out:
                                                                  3,560 mL
                                                                  1,320 mL
   Urine:
                                                                  2,960 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    615 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 13.5 L/min
   Physical Examination
   Gen: intubated, following commands, squeezing fingers on the left and
   opening eyes and tracking as well as pushing down with his left foot on
   command
   HEENT: pupils equal round and reactive to light 6mm to 5mm, sclerae
   markedly icteric b/l
   Chest: R-sided subclavian central line in place
   Resp: coarse, mechanical breath sounds
   CV: regular rate and rhythm, no murmurs appreciated
   Abd: + BS, soft, obese, non-distended, unable to assess pain
   Ext: no edema, 2+ distal pulses B/L
   Skin: petechiae over lower extremities
   Neuro: non-verbal
   Labs / Radiology
   34 K/uL
   8.4 g/dL
   110 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.3 mEq/L
   42 mg/dL
   107 mEq/L
   140 mEq/L
   25.1 %
   1.8 K/uL
        [image002.jpg]
                            [**2117-10-6**]  04:23 AM
                            [**2117-10-6**]  03:56 PM
                            [**2117-10-6**]  09:18 PM
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
                            [**2117-10-7**]  10:54 AM
                            [**2117-10-7**]  04:43 PM
                            [**2117-10-7**]  11:00 PM
                            [**2117-10-8**]  04:17 AM
   WBC
   0.8
   1.1
   1.0
   1.4
   1.4
   1.3
   1.3
   1.8
   Hct
   24.4
   25.4
   23.1
   24.9
   24.5
   23.7
   25.6
   25.1
   Plt
   40
   43
   36
   33
   39
   33
   29
   34
   Cr
   0.5
   0.5
   0.5
   TCO2
   26
   Glucose
   113
   121
   108
   110
   Other labs: PT / PTT / INR:15.4/35.4/1.4, ALT / AST:155/69, Alk Phos /
   T Bili:502/12.5, Amylase / Lipase:/43, Differential-Neuts:94.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:169 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:171 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL,
   PO4:4.1 mg/dL
   42 year-old gentleman w/ newly dx ALL s/p chemo (vincristine,
   doxorubicin) and L-asparaginase x-fer to [**Hospital Unit Name 10**] w/ ischemic stroke
   complicated by massive hemorrhagic transformation s/p intubation for
   inability to protect airway.
   1. Respiratory Status
 currently much more alert, following commands,
   on pressure support [**3-23**]
   -- Hold tube feeds
   -- Potential extubation attempt after talking to family this afternoon
   2. ACUTE STROKE- Patient has sagital sinus and cortical vein thrombosis
   complicated by hemorrhagic infarction.  Hypercoagulability likely [**12-21**]
   underlying malignancy, along with use of L-asparaginase.  Head CT shows
   falcine herniation with midline shift.
   -- appreciate Neurology recs- will attempt to wean off mannitol-> 17
   q6h now
 wean off today
   -- monitor lytes, osms q6h & q1h neuro checks
   -- Keep SBP < 160 as per neuro recs
   -- Intubated now for inability to protect airway-> currently on
   pressure support [**3-23**]
   -- Continue off  midazolam sedation as tolerated
 currently off
   sedation
   -- tight glycemic control
   -- continue Keppra 1000mg IV q12h for seizure ppx
   -- Continue good contact and follow-up with family
   3. ACUTE LEUKEMIA- Has anemia, thrombocyotopenia with intracranial
   hermorrhage.
   -- Discuss platelet goal with BMT
 goal above 30 at this point
   actively sequesters platelets as per BMT and has massive splenomegaly
   No platelets today
   -- Goal SBP 100-140, goal INR<1.3,
   --  f/u BMT recs
   -- Neupogen added per BMT
   -- Check daily fibrinogen per BMT
   -- Check thrombin III per BMT
   4. FEVER: C. Diff positive
 started on Flagyl last night
 afebrile
   -- pan cultured yesterday
 C Diff positive
   -- Started PO Flagyl 500mg q8
   -- treat empirically with cefepime/vanc
 Micofungin added yesterday
   -- Need Vanc approval today
   -- f/u cultures
   5. HYPERBILIRUBINEMIA: Likely [**12-21**] known liver injury from vincristine +
   hemolysis
   -- trend total and direct bilirubin
   -- F/U LFTs
   -- avoid hepatotoxins
   -- Liver team recommended biopsy in the future if patient improves and
   hepatic function remains impaired
   6. Acute IJ thrombus
 RUE u/s showed a clot in the RIJ.  R subclavian
   in place.
   -- F/u cultures
   -- Can
t anticoagulate in the setting of hemorrhagic stroke
   -- Cannot pull the line due to inability to hold pressure and potential
   for bleed
   -- Obtain 2 PIV
s and leave SC in place
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2117-10-6**] 06:47 AM 40 mL/hour
  Hold for
   potential extubation this afternoon
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments: family, brother [**Name (NI) 117**]
   Code status: FULL for now
   Disposition:  ICU
   09:48
   ------ Protected Section ------
   Agree with this excellent MSIV note.  The patient is more alert and
   following commands.  If making progress, may consider extubation
   attempt this afternoon.  Will wean off Mannitol. Initiated treatment
   with oral Flagyl for C. diff infection.
   ------ Protected Section Addendum Entered By:[**Name (NI) 285**] [**Last Name (NamePattern1) 9042**], MD
   on:[**2117-10-8**] 10:33 ------

2117-10-08 08:55:00 Physician Attending Progress Note
Chief Complaint: parietal CVA with hemorrhagic transformation,
   intubated for airway protection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2117-10-7**] 08:43 AM
 BLOOD CULTURED - At [**2117-10-7**] 08:43 AM
 SPUTUM CULTURE - At [**2117-10-7**] 08:43 AM
 URINE CULTURE - At [**2117-10-7**] 08:43 AM
 STOOL CULTURE - At [**2117-10-7**] 08:43 AM
 ULTRASOUND - At [**2117-10-7**] 11:17 AM
 FEVER - 101.2
F - [**2117-10-7**] 08:00 AM
   C. Diff positive, started po flagyl
   RUE ultrasound demonstrates clot in RIJ
   Continues off sedation
   Tube feeds held since 8 am
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2117-10-6**] 08:13 PM
   Bactrim (SMX/TMP) - [**2117-10-7**] 08:16 AM
   Vancomycin - [**2117-10-8**] 04:32 AM
   Cefipime - [**2117-10-8**] 07:44 AM
   Metronidazole - [**2117-10-8**] 07:46 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-8**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-10-8**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 79 (77 - 95) bpm
   BP: 121/67(78) {104/59(70) - 146/84(97)} mmHg
   RR: 23 (18 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.9 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  4,175 mL
                                                                  1,641 mL
   PO:
             TF:
                                                                  1,118 mL
                                                                    601 mL
   IVF:
                                                                  2,716 mL
                                                                    880 mL
   Blood products:
   Total out:
                                                                  3,560 mL
                                                                  1,500 mL
   Urine:
                                                                  2,960 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    615 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 552 (552 - 552) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 11.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, jaundice
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, following commands,
   squeezed hand on left, not moving right side, toe upgoing on right
   Labs / Radiology
   8.4 g/dL
   34 K/uL
   110 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.3 mEq/L
   42 mg/dL
   107 mEq/L
   140 mEq/L
   25.1 %
   1.8 K/uL
        [image002.jpg]
                            [**2117-10-6**]  04:23 AM
                            [**2117-10-6**]  03:56 PM
                            [**2117-10-6**]  09:18 PM
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
                            [**2117-10-7**]  10:54 AM
                            [**2117-10-7**]  04:43 PM
                            [**2117-10-7**]  11:00 PM
                            [**2117-10-8**]  04:17 AM
   WBC
   0.8
   1.1
   1.0
   1.4
   1.4
   1.3
   1.3
   1.8
   Hct
   24.4
   25.4
   23.1
   24.9
   24.5
   23.7
   25.6
   25.1
   Plt
   40
   43
   36
   33
   39
   33
   29
   34
   Cr
   0.5
   0.5
   0.5
   TCO2
   26
   Glucose
   113
   121
   108
   110
   Other labs: PT / PTT / INR:15.4/35.4/1.4, ALT / AST:155/69, Alk Phos /
   T Bili:502/12.5, Amylase / Lipase:/43, Differential-Neuts:94.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:169 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:171 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM):  Febrile and
   neutropenia, now growing C. Diff in stool.  Holding prophylactic
   bactrim in setting of liver failure.  Continues vanco/cefipime and
   micafungin.  Follow up on blood and urine cultures.  Given no positive
   blood cultures and we have another source for the fever we will not
   take out the subclavian line at this point.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Much more alert this morning.  Following
   commands, has cough and gag.  Have tube feeds on hold for anticipated
   extubation later today.
 COAGULOPATHY:  Stable thrombocytopenia.  INR continues elevated in
   setting of liver failure and broad spectrum antibiotics, received
   vitamin K yesterday, will hold on further vit K and repeat labs this
   afternoon.
 RIGHT IJ CLOT:  More evidence of hypercoaguability.  Not a candidate
   for anticoagulation.  Elevate the right arm.
 CVA (STROKE, CEREBRAL INFARCTION), WITH HEMORRHAGIC TRANSFORMATION:
   Clinically improved.   Continue to wean mannitol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2117-10-09 07:47:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9291**] PROGRESS NOTE
   Chief Complaint: ALL, CVA
   [**31**] Hour Events:
 INVASIVE VENTILATION - STOP [**2117-10-8**] 12:12 PM
 MULTI LUMEN - STOP [**2117-10-8**] 06:54 PM
   -RUE U/S showed clot in right IJ
   -neuro recs: would be helpful to get CTV next week to see if clot has
   progressed and assess whether patient might benefit from
   anticoagulation
   -d/c'ed mannitol
   -extubated
   -put in PT and OT consults
   -considering speech and swallow consult -> discuss on rounds
   -changed micafungin to anidulafungin
   Allergies: NKDA
   Last dose of Antibiotics:
   Micafungin - [**2117-10-6**] 08:13 PM
   Bactrim (SMX/TMP) - [**2117-10-7**] 08:16 AM
   Cefipime - [**2117-10-9**] 12:01 AM
   Vancomycin - [**2117-10-9**] 04:00 AM
   Metronidazole - [**2117-10-9**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-8**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-9**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.6
C (97.9
   HR: 78 (71 - 92) bpm
   BP: 116/70(81) {110/61(72) - 147/84(92)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 143.4 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,461 mL
                                                                    778 mL
   PO:
             TF:
                                                                    601 mL
   IVF:
                                                                  2,700 mL
                                                                    778 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    700 mL
   Urine:
                                                                  2,150 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    611 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 552 (552 - 552) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 11.8 L/min
   Physical Examination
   Gen: intubated, following commands, squeezing fingers on the left and
   opening eyes and tracking as well as pushing down with his left foot on
   command
   HEENT: pupils equal round and reactive to light 6mm to 5mm, sclerae
   markedly icteric b/l
   Chest: R-sided subclavian central line in place
   Resp: coarse, mechanical breath sounds
   CV: regular rate and rhythm, no murmurs appreciated
   Abd: + BS, soft, obese, non-distended, unable to assess pain
   Ext: no edema, 2+ distal pulses B/L
   Skin: petechiae over lower extremities
   Neuro: non-verbal
   Labs / Radiology
   34 K/uL
   8.4 g/dL
   93 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   39 mg/dL
   103 mEq/L
   137 mEq/L
   25.1 %
   1.8 K/uL
        [image002.jpg]
                            [**2117-10-6**]  03:56 PM
                            [**2117-10-6**]  09:18 PM
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
                            [**2117-10-7**]  10:54 AM
                            [**2117-10-7**]  04:43 PM
                            [**2117-10-7**]  11:00 PM
                            [**2117-10-8**]  04:17 AM
                            [**2117-10-8**]  03:49 PM
   WBC
   1.1
   1.0
   1.4
   1.4
   1.3
   1.3
   1.8
   Hct
   25.4
   23.1
   24.9
   24.5
   23.7
   25.6
   25.1
   Plt
   43
   36
   33
   39
   33
   29
   34
   Cr
   0.5
   0.5
   0.4
   TCO2
   26
   Glucose
   121
   108
   110
   93
   Other labs: PT / PTT / INR:15.5/36.6/1.4, ALT / AST:187/88, Alk Phos /
   T Bili:529/12.0, Amylase / Lipase:/43, Differential-Neuts:94.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:169 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:183 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   42 year-old gentleman w/ newly dx ALL s/p chemo (vincristine,
   doxorubicin) and L-asparaginase x-fer to [**Hospital Unit Name 10**] w/ ischemic stroke
   complicated by massive hemorrhagic transformation s/p intubation for
   inability to protect airway.
   1. Respiratory Status
 currently much more alert, following commands,
   on pressure support [**3-23**]
   -- Hold tube feeds
   -- Potential extubation attempt after talking to family this afternoon
   2. ACUTE STROKE- Patient has sagital sinus and cortical vein thrombosis
   complicated by hemorrhagic infarction.  Hypercoagulability likely [**12-21**]
   underlying malignancy, along with use of L-asparaginase.  Head CT shows
   falcine herniation with midline shift.
   -- appreciate Neurology recs- will attempt to wean off mannitol-> 17
   q6h now
 wean off today
   -- monitor lytes, osms q6h & q1h neuro checks
   -- Keep SBP < 160 as per neuro recs
   -- Intubated now for inability to protect airway-> currently on
   pressure support [**3-23**]
   -- Continue off  midazolam sedation as tolerated
 currently off
   sedation
   -- tight glycemic control
   -- continue Keppra 1000mg IV q12h for seizure ppx
   -- Continue good contact and follow-up with family
   3. ACUTE LEUKEMIA- Has anemia, thrombocyotopenia with intracranial
   hermorrhage.
   -- Discuss platelet goal with BMT
 goal above 30 at this point
   actively sequesters platelets as per BMT and has massive splenomegaly
   No platelets today
   -- Goal SBP 100-140, goal INR<1.3,
   --  f/u BMT recs
   -- Neupogen added per BMT
   -- Check daily fibrinogen per BMT
   -- Check thrombin III per BMT
   4. FEVER: C. Diff positive
 started on Flagyl last night
 afebrile
   -- pan cultured yesterday
 C Diff positive
   -- Started PO Flagyl 500mg q8
   -- treat empirically with cefepime/vanc
 Micofungin added yesterday
   -- Need Vanc approval today
   -- f/u cultures
   5. HYPERBILIRUBINEMIA: Likely [**12-21**] known liver injury from vincristine +
   hemolysis
   -- trend total and direct bilirubin
   -- F/U LFTs
   -- avoid hepatotoxins
   -- Liver team recommended biopsy in the future if patient improves and
   hepatic function remains impaired
   6. Acute IJ thrombus
 RUE u/s showed a clot in the RIJ.  R subclavian
   in place.
   -- F/u cultures
   -- Can
t anticoagulate in the setting of hemorrhagic stroke
   -- Cannot pull the line due to inability to hold pressure and potential
   for bleed
   -- Obtain 2 PIV
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2117-10-6**] 06:47 AM 40 mL/hour
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2117-10-3**] 05:59 PM
   20 Gauge - [**2117-10-3**] 05:59 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments: family, brother [**Name (NI) 117**]
   Code status: FULL for now
   Disposition:  ICU

2117-10-09 07:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   Awake, hemiplegic, aphasic
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-10-8**] 12:12 PM
 MULTI LUMEN - STOP [**2117-10-8**] 06:54 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2117-10-6**] 08:13 PM
   Bactrim (SMX/TMP) - [**2117-10-7**] 08:16 AM
   Cefipime - [**2117-10-9**] 12:01 AM
   Vancomycin - [**2117-10-9**] 04:00 AM
   Metronidazole - [**2117-10-9**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-9**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.6
C (97.9
   HR: 78 (71 - 92) bpm
   BP: 116/70(81) {110/61(72) - 147/84(92)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 143.4 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,461 mL
                                                                    779 mL
   PO:
             TF:
                                                                    601 mL
   IVF:
                                                                  2,700 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    700 mL
   Urine:
                                                                  2,150 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    611 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 552 (552 - 552) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 11.8 L/min
   Physical Examination
   Responding to commands inconsistently, not moving right side, upgoing
   toes on right,
   Neck supple
   Lungs clear
   Hrt rrr
   Abd benign
   Extreme no edema
   Labs / Radiology
   8.4 g/dL
   34 K/uL
   93 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   39 mg/dL
   103 mEq/L
   137 mEq/L
   25.1 %
   1.8 K/uL
        [image002.jpg]
                            [**2117-10-6**]  03:56 PM
                            [**2117-10-6**]  09:18 PM
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
                            [**2117-10-7**]  10:54 AM
                            [**2117-10-7**]  04:43 PM
                            [**2117-10-7**]  11:00 PM
                            [**2117-10-8**]  04:17 AM
                            [**2117-10-8**]  03:49 PM
   WBC
   1.1
   1.0
   1.4
   1.4
   1.3
   1.3
   1.8
   Hct
   25.4
   23.1
   24.9
   24.5
   23.7
   25.6
   25.1
   Plt
   43
   36
   33
   39
   33
   29
   34
   Cr
   0.5
   0.5
   0.4
   TCO2
   26
   Glucose
   121
   108
   110
   93
   Other labs: PT / PTT / INR:15.5/36.6/1.4, ALT / AST:187/88, Alk Phos /
   T Bili:529/12.0, Amylase / Lipase:/43, Differential-Neuts:94.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:169 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:183 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   CXR - unremarkable
   Assessment and Plan
 FEVER, Cdiff
 on Vanco, cefepime, flagyl, anti-fungal
 consider
   stopping cefepime + anti-fungal
   Abnormal LFTs
 stable mostly cholestatic pattern, u/s unremarkable,
   follow, cont ursodiol
 LEUKEMIA, ACUTE (ALL), pancytopenia
 cont g-csf
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 cont supportive care
   RIJ thrombus
 avoid anticoagulation
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-10-8**] 06:23 PM
   20 Gauge - [**2117-10-8**] 06:39 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :  icu
   Total time spent: 36

2117-10-10 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Neurological status continues to gradually improve
   -This AM, the patient is non-verbal, but follows commands.  Able to
   move both LUE and LLE, but not able to move RUE.  Able to wiggle toes
   on RLE.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2117-10-7**] 08:16 AM
   Vancomycin - [**2117-10-9**] 12:18 PM
   Cefipime - [**2117-10-10**] 02:10 AM
   Metronidazole - [**2117-10-10**] 04:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-10**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 66 (65 - 81) bpm
   BP: 116/59(72) {107/59(72) - 141/83(95)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 143.4 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,307 mL
                                                                    344 mL
   PO:
             TF:
   IVF:
                                                                  2,307 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    345 mL
   Urine:
                                                                  2,235 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     72 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95% on RA
   ABG: ///26/
   Physical Examination
   Gen: extubated, tracking objects to the left and right, squeezing
   fingers to commands, moving LLE and LUE spontaneously, not moving RUE,
   RLE
   HEENT: pupils equal round and reactive to light 6mm to 5mm, sclerae
   markedly icteric b/l
   Resp: clear to auscultation, no rhonchi appreciated
   CV: regular rate and rhythm, no murmurs appreciated
   Abd: + BS, soft, obese, non-distended, unable to assess pain
   Ext: no edema, 2+ distal pulses B/L
   Skin: petechiae over lower extremities
   Neuro: non-verbal
   Labs / Radiology
   32 K/uL
   7.7 g/dL
   96 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   22.6 %
   1.4 K/uL
        [image002.jpg]
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
                            [**2117-10-7**]  10:54 AM
                            [**2117-10-7**]  04:43 PM
                            [**2117-10-7**]  11:00 PM
                            [**2117-10-8**]  04:17 AM
                            [**2117-10-8**]  03:49 PM
                            [**2117-10-9**]  11:00 AM
                            [**2117-10-10**]  03:31 AM
   WBC
   1.4
   1.4
   1.3
   1.3
   1.8
   1.6
   1.4
   Hct
   24.9
   24.5
   23.7
   25.6
   25.1
   23.2
   22.6
   Plt
   33
   39
   33
   29
   34
   29
   32
   Cr
   0.5
   0.5
   0.4
   0.4
   0.3
   TCO2
   26
   Glucose
   121
   108
   110
   93
   98
   96
   Other labs: PT / PTT / INR:15.3/32.7/1.3, ALT / AST:300/124, Alk Phos /
   T Bili:465/10.9, Amylase / Lipase:/43, Differential-Neuts:90.0 %,
   Band:4.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:182 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:194 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   42 yo M w/ ALL s/p induction chemo (vincristine, doxorubicin) and
   L-asparaginase x-fer to [**Hospital Unit Name 10**] w/ ischemic stroke complicated by massive
   hemorrhagic transformation (superior sagital thrombosis), now extubated
   with some improvement in neurological function.
   1. ACUTE STROKE- Patient has sagital sinus and cortical vein thrombosis
   complicated by hemorrhagic infarction.  Hypercoagulability likely [**12-21**]
   underlying malignancy, along with use of L-asparaginase.  Head CT shows
   falcine herniation with midline shift.
   -- appreciate continued Neurology input
   -- Keep SBP < 160 as per neuro recs
   -- tight glycemic control
   -- continue Keppra 1000mg IV q12h for seizure ppx
   -- Continue good contact and follow-up with family
   -- speech and swallow evaluation
   --PT/OT consult
   --IVF D51/2NS at 100 cc/hr now
   2. ACUTE LEUKEMIA- Has anemia, thrombocyotopenia with intracranial
   hermorrhage.
   -- Platelet goal above 30
 pt actively sequesters platelets as per BMT
   and has massive splenomegaly
 No platelets today
   -- Goal SBP 100-140, goal INR<1.3,
   -- continue Neupogen per BMT
   -- continue to check daily fibrinogen and thrombin III levels per BMT
   3. FEVER: Febrile neutropenia, w/ source identified as is C. Diff
   positive
   -- continue IV flagyl for C. diff
   -- continue IV vanco/ cefepime as for now.  Will discuss with BMT today
   as the pt. with ANC>500 and afebrile.
   -- continue Anidulafungin
   -- f/u outstanding cultures
   4. HYPERBILIRUBINEMIA: Likely [**12-21**] known liver injury from vincristine +
   hemolysis
   -- trend total and direct bilirubin
   -- F/U LFTs
   -- avoid hepatotoxins
   -- Liver team recommended biopsy in the future if patient improves and
   hepatic function remains impaired
   5. Acute IJ thrombus
 RUE u/s showed a clot in the RIJ.  R-IJ (not
   subclavian) pulled w/o complication
   -- F/u catheter cultures
   -- Obtain PICC, 2 PIVs for access at this point
   ICU Care
   Nutrition:  NPO- needs speech & swallow eval
   Glycemic Control:  none
   Lines:
   2 PIVs
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments: family, brother [**Name (NI) 117**]
   Code status: FULL CODE
   Disposition:  call out today

2117-10-10 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2117-10-9**] 09:38 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2117-10-7**] 08:16 AM
   Vancomycin - [**2117-10-9**] 12:18 PM
   Cefipime - [**2117-10-10**] 02:10 AM
   Metronidazole - [**2117-10-10**] 04:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-10**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 66 (65 - 81) bpm
   BP: 116/59(72) {107/59(72) - 141/83(95)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 143.4 kg (admission): 145.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,307 mL
                                                                    361 mL
   PO:
             TF:
   IVF:
                                                                  2,307 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    565 mL
   Urine:
                                                                  2,235 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     72 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   32 K/uL
   96 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   22.6 %
   1.4 K/uL
        [image002.jpg]
                            [**2117-10-6**]  09:19 PM
                            [**2117-10-6**]  09:39 PM
                            [**2117-10-7**]  04:04 AM
                            [**2117-10-7**]  10:54 AM
                            [**2117-10-7**]  04:43 PM
                            [**2117-10-7**]  11:00 PM
                            [**2117-10-8**]  04:17 AM
                            [**2117-10-8**]  03:49 PM
                            [**2117-10-9**]  11:00 AM
                            [**2117-10-10**]  03:31 AM
   WBC
   1.4
   1.4
   1.3
   1.3
   1.8
   1.6
   1.4
   Hct
   24.9
   24.5
   23.7
   25.6
   25.1
   23.2
   22.6
   Plt
   33
   39
   33
   29
   34
   29
   32
   Cr
   0.5
   0.5
   0.4
   0.4
   0.3
   TCO2
   26
   Glucose
   121
   108
   110
   93
   98
   96
   Other labs: PT / PTT / INR:15.3/32.7/1.3, ALT / AST:300/124, Alk Phos /
   T Bili:465/10.9, Amylase / Lipase:/43, Differential-Neuts:90.0 %,
   Band:4.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:182 mg/dL,
   Lactic Acid:2.2 mmol/L, LDH:194 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 FEVER, Cdiff
 on Vanco, cefepime, flagyl, anti-fungal
 consider
   stopping cefepime + anti-fungal
   Abnormal LFTs
 stable mostly cholestatic pattern, u/s unremarkable,
   follow, cont ursodiol
 LEUKEMIA, ACUTE (ALL), pancytopenia
 cont g-csf
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 cont supportive care
   RIJ thrombus
 avoid anticoagulation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-10-8**] 06:23 PM
   20 Gauge - [**2117-10-8**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: